US09260416B2
Step 1: [6-(4-Methoxy-benzylsulfanyl)-pyridin-2-yl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 16, Step 2, using the following starting materials: (6-bromo-pyridin-2-yl)-acetic acid ethyl ester and 4-methoxybenzyl mercaptan.

reactant | (6-bromo-pyridin-2-yl)-acetic acid ethyl ester | C(C)OC(CC1=NC(=CC=C1)Br)=O | C9H10BrNO2
reactant | 4-methoxybenzyl mercaptan | COC1=CC=C(CS)C=C1 | C8H10OS
product | [6-(4-Methoxy-benzylsulfanyl)-pyridin-2-yl]-acetic acid ethyl ester | C(C)OC(CC1=NC(=CC=C1)SCC1=CC=C(C=C1)OC)=O | C17H19NO3S
